* TL084 QUAD MODEL
* file name: TL084-quad.lib
.SUBCKT TL084-quad 1out 1in- 1in+ vcc+ 2in+ 2in- 2out 3out 3in- 3in+ vcc- 4in+ 4in- 4out
.INCLUDE TL084.lib
XU1A 1in+ 1in- vcc+ vcc- 1out TL084
XU1B 2in+ 2in- vcc+ vcc- 2out TL084
XU1C 3in+ 3in- vcc+ vcc- 3out TL084
XU1D 4in+ 4in- vcc+ vcc- 4out TL084
.ENDS